US06001997
(a) (2RS,5SR)-5-Methoxycarbonyltetrahydrofuran-2-yl carboxylic acid
A mixture of furan-2,5-dicarboxylic acid monomethyl ester (1.95 g) and 5% rhodium on carbon (400 mg) in ethyl acetate (50 ml) was hydrogenated until hydrogen uptake ceased. The catalyst was filtered off and washed with ethyl acetate. The combined filtrates were evaporated to give (2.00 g) of the title compound: νmax (film) 3170, 1765 and 1720 cm-1 ; δH (CDCl3) 1.95-2.65 (4 H, m), 3.85 (3 H, s) and 4.55-4.8 (2 H, m).

reactant | furan-2,5-dicarboxylic acid monomethyl ester | 1.95 g | COC(=O)C=1OC(=CC1)C(=O)O | C7H6O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | rhodium on carbon | 400 mg | [Rh] | Rh
product | (2RS,5SR)-5-Methoxycarbonyltetrahydrofuran-2-yl carboxylic acid | 2.00 g | COC(=O)C1CCC(O1)C(=O)O | C7H10O5
